US04859691
A suspension of 3-[(5-(3-chloropropyl)-1H-imidazol-1-yl)methyl]-1,2-benzisoxazole hydrochloride (1.9 g, 0.006 mole) in anhydrous tetrahydrofuran (25 mL) is stirred under an atmosphere of nitrogen and cooled in an ice bath during the portionwise addition of solid potassium t-butoxide (1.7 g, 0.015 mole). The reaction mixture is stirred at 0°-5° C. for 3 hours and then acidified by addition of glacial acetic acid (0.5 mL). The solvent is evaporated and the residue is taken up in methylene chloride (20 mL) and washed with saturated sodium bicarbonate (10 mL) and water (10 mL). The solution is dried over anhydrous sodium sulfate, filtered and evaporated to give crude 3-(5,6,7,8-tetrahydroimidazo-[1,5-a]-pyridin-5-yl)-1,2-benzisoxazole which is converted to the hydrochloride salt, m.p. 250°-252° C., when its solution in isopropanol is treated with ethereal hydrogen chloride.

reactant | 3-[(5-(3-chloropropyl)-1H-imidazol-1-yl)methyl]-1,2-benzisoxazole hydrochloride | 0.006 mole, 1.9 g | Cl.ClCCCC1=CN=CN1CC1=NOC2=C1C=CC=C2
reactant | potassium t-butoxide | 0.015 mole, 1.7 g | CC(C)([O-])C.[K+]
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-(5,6,7,8-tetrahydroimidazo-[1,5-a]-pyridin-5-yl)-1,2-benzisoxazole | C=1N=CN2C1CCCC2C2=NOC1=C2C=CC=C1 | C14H13N3O
